US04528287
7-(3,4-Dimethyl-1-piperazinyl)-1-ethyl-6-fluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid
A mixture of 2.69 g of 1-ethyl-6-fluoro-1,4-dihydro-7-(3-methyl-1-piperazinyl)-4-oxoquinoline-3-carboxylic acid hydrochloride, 5.4 ml 90% formic acid, 3.5 ml of 37% formalin and 0.70 g of potassium carbonate was heated for 5 hours under reflux. The reaction mixture was neutralized with 20% aqueous sodium hydroxide. The precipitate was filtered and recrystallized from a mixture of chloroform and methanol to give 1.70 g of the title compound as colorless needles, M.p. 244°-246° C.

reactant | 1-ethyl-6-fluoro-1,4-dihydro-7-(3-methyl-1-piperazinyl)-4-oxoquinoline-3-carboxylic acid hydrochloride | 2.69 g | Cl.C(C)N1C=C(C(C2=CC(=C(C=C12)N1CC(NCC1)C)F)=O)C(=O)O
reactant | formalin | 3.5 ml | C=O | CH2O
reactant | potassium carbonate | 0.70 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | formic acid | 5.4 ml | C(=O)O | CH2O2
product | 7-(3,4-Dimethyl-1-piperazinyl)-1-ethyl-6-fluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 1.70 g | CC1CN(CCN1C)C1=C(C=C2C(C(=CN(C2=C1)CC)C(=O)O)=O)F | C18H22FN3O3
